US06194406B1
Combine 3-phenyl-3-(2-hydroxyethyl)pyrrolidine (prepared by extraction from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) (20 g, 32.8 mmol) and sodium hydroxide (2.8 g, 70 mmol) in tetrahydrofuran/water (120 mL/120 mL). Add dropwise a solution of di-t-butyl dicarbonate (32.8 mmol) in tetrahydrofuran (60 mL). After 16 hours, evaporate the reaction mixture in vacuo to give a residue. Combine the residue and dichloromethane, extract with aqueous 1 M sodium hydroxide solution, water, and then brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give 1-t-butoxycarbonyl-3-phenyl-3-(2-hydroxyethyl)pyrrolidine. [α]2D0=+55.4° (c=0.932, chloroform).

reactant | 3-phenyl-3-(2-hydroxyethyl)pyrrolidine | 32.8 mmol, 20 g | C1(=CC=CC=C1)C1(CNCC1)CCO | C12H17NO
reactant | sodium hydroxide | 70 mmol, 2.8 g | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 32.8 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran water | 120 mL | O1CCCC1.O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 1-t-butoxycarbonyl-3-phenyl-3-(2-hydroxyethyl)pyrrolidine | C(C)(C)(C)OC(=O)N1CC(CC1)(CCO)C1=CC=CC=C1 | C17H25NO3
